US06528503B2
To a solution of crude 1-hydroxymethyl-2-aminomethyl-5-chlorobenzene from the previous step in dichloromethane (200 mL) was added di-tert-butyl dicarbonate (11.38 g, 52.18 mmol) at room temperature. After one hour, the reaction was partitioned with water (200 mL). The organic layer was concentrated in vacuo and the residue was purified by flash chromatography eluting a gradient of 20%, 30%, 40% EtOAc in hexane. The brown oil which resulted was taken up in dichloromethane (500 mL) and treated with activated charcoal to give 2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl alcohol as an off-white solid (9.2 g, 72% yield over two steps). TLC Rf=0.3 (25% EtOAc-hexanes); HPLC RT=3.15 min (Method A); LC-MS m/z=272; 1H NMR (CDCl3, 400 MHz) 7.36 ppm (s, 1H); 7.2-7.5 ppm (m, 2H); 4.69 ppm (b s, 2H); 4.32 ppm (d, 2H, J=6.04 Hz); 1.43 ppm (s, 9H).

reactant | 1-hydroxymethyl-2-aminomethyl-5-chlorobenzene | OCC1=C(C=CC(=C1)Cl)CN | C8H10ClNO
reactant | di-tert-butyl dicarbonate | 52.18 mmol, 11.38 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | charcoal | C | CH4
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl alcohol | 72% yield | C(C)(C)(C)OC(=O)NCC1=C(CO)C=C(C=C1)Cl | C13H18ClNO3
